US07847101B2
Preparation 5: Synthesis of 4-Amino-2-fluorobenzoic acid
To a solution of 2-fluoro-4-nitrobenzoic acid (1.0 g, 5.4 mmol) in 20 mL of a mixture of acetic acid and methanol (1:1), was added a catalytic amount of palladium on charcoal (25 mg). The reaction was stirred under an atmosphere of hydrogen gas at room temperature overnight. The mixture was then filtered through celite and the solvent was removed by evaporation to yield 0.86 g (100%) of the title compound as a cream coloured solid.

reactant | 2-fluoro-4-nitrobenzoic acid | 5.4 mmol, 1.0 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 25 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 4-Amino-2-fluorobenzoic acid | 0.86 g, 100% | NC1=CC(=C(C(=O)O)C=C1)F | C7H6FNO2
